US04699984
To a stirred solution containing 119 g of 2-fluorobenzaldehyde, 600 ml of methanol and 255 ml of methyl acetoacetate was added 200 ml of concentrated ammonium hydroxide whereupon an exothermic reaction ensued. The reaction mixture was stirred at ambient temperature for 30 minutes, next refluxed a few hours and then allowed to stand at room temperature overnight (about 15 hours). The yellow solid that crystallized was collected, washed with ether and dried in an oven at 50°-60° C. to yield 201 g of dimethyl 4-(2-fluorophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate, m.p. 206°-208° C. Concentration of the mother liquor yielded another 26.4 g of the product, m.p. 204°-206° C. The total yield was 74%.

reactant | 2-fluorobenzaldehyde | 119 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | methyl acetoacetate | 255 ml | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
solvent | methanol | 600 ml | CO | CH4O
product | dimethyl 4-(2-fluorophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate | 201 g | FC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C17H18FNO4
